US05502065
5-(4-Carbamoylphenyl)-3-(pyrrolidin-2(R)-ylmethyl)-1H-indole
3-(1-Benzyloxycarbonylpyrrolidin-2(R)-ylmethyl)-5-(4-carbamoylphenyl)-1H-indole (355 mg, 0.784 mmol) (see Preparation 41) in ethanol was reduced using catalytic hydrogenation, as described in Example 35. This gave the title compound as a white foam (210 mg). Found: C,72.33; H,6.80; N,12.35; C20H21N3O.3/4H2O requires: C,72.16; H,6.81; N,12.62%.

reactant | 3-(1-Benzyloxycarbonylpyrrolidin-2(R)-ylmethyl)-5-(4-carbamoylphenyl)-1H-indole | 0.784 mmol, 355 mg | C(C1=CC=CC=C1)OC(=O)N1[C@H](CCC1)CC1=CNC2=CC=C(C=C12)C1=CC=C(C=C1)C(N)=O | C28H27N3O3
solvent | ethanol | C(C)O | C2H6O
product | 5-(4-Carbamoylphenyl)-3-(pyrrolidin-2(R)-ylmethyl)-1H-indole | 210 mg | C(N)(=O)C1=CC=C(C=C1)C=1C=C2C(=CNC2=CC1)C[C@@H]1NCCC1 | C20H21N3O
